US05243053
1-[(6-hydroxy-2,2-dimethyl-4-oxo-4H-1,3-dioxin-5-yl)methyl]pyridinium hydroxide, inner salt (Ia)
Meldrum's acid (20 g, 0.139 mol) was dissolved in 50 ml of pyridine. The solution immediately turned yellow and was somewhat exothermic. After dissolution was complete, a 37% aqueous solution of formaldehyde (10.4 ml, 0.139 mol) was added in one portion. The reaction mixture was allowed to stir for one hour under argon. The solvent was removed in vacuo at 55° C. after which yellow crystals were isolated. These crystals were then stirred with 200 ml of hexanes for 30 minutes and filtered providing 32.24 g (0.127 mol, 91.6%) of the desired title product. Melting point: >350° C. NMR (ppm): 1.62 (s, 6H (CH3)); 5.58 (bs, 2H (CH2)); 7.71 (t, 2H (Ar-H)); 8.17 (t, 1H (Ar-H)); 9.0 (d, 2H (Ar-H)). MS: 235.23.

reactant | Meldrum's acid | 0.139 mol, 20 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | formaldehyde | 0.139 mol, 10.4 ml | C=O | CH2O
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(6-hydroxy-2,2-dimethyl-4-oxo-4H-1,3-dioxin-5-yl)methyl]pyridinium hydroxide | 0.127 mol, 32.24 g, 91.6% | [OH-].OC1=C(C(OC(O1)(C)C)=O)C[N+]1=CC=CC=C1 | InChI=1S/C12H13NO4.H2O/c1-12(2)16-10(14)9(11(15)17-12)8-13-6-4-3-5-7-13;/h3-7H,8H2,1-2H3;1H2
